US07482341B2
2,4-Dichloro-6-methyl-N-[6-(3,3,3-trifluoro-propoxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(3,3,3-Trifluoro-propoxymethyl)-pyridin-2-ylamine (0.075 g) and 2,4-dichloro-6-methyl-benzenesulfonyl chloride (0.097 g) as a light yellow gum (0.08 g). MS (ESI−): 441.1 ([M−H]−).

reactant | 6-(3,3,3-Trifluoro-propoxymethyl)-pyridin-2-ylamine | 0.075 g | FC(CCOCC1=CC=CC(=N1)N)(F)F | C9H11F3N2O
reactant | 2,4-dichloro-6-methyl-benzenesulfonyl chloride | 0.097 g | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-6-methyl-N-[6-(3,3,3-trifluoro-propoxymethyl)-pyridin-2-yl]-benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC1=NC(=CC=C1)COCCC(F)(F)F | C16H15Cl2F3N2O3S
